US05112829
To a solution of 8-hydroxy-1,2,3,4-tetrahydro-9-acridinamine hydrochloride (3.77 g) in dry dimethylformamide (100 ml) was added potassium carbonate (4.7 g), with stirring. After one hr, methyl 2-bromopropionate (2.51 ml) was added and stirring was continued overnight. The reaction mixture was diluted with water, extracted with ethyl acetate, dried over anhydrous sodium sulfate, concentrated, and the residue was flash chromatographed (ethyl acetate, then 5% triethylamine/ethyl acetate) to yield 4.05 g (86.7%) of methyl α-[(9-amino-1,2,3,4-tetrahydroacridin-8-yl)oxy]propionate hydrate.

reactant | 8-hydroxy-1,2,3,4-tetrahydro-9-acridinamine hydrochloride | 3.77 g | Cl.OC=1C=CC=C2N=C3CCCCC3=C(C12)N
reactant | potassium carbonate | 4.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 2-bromopropionate | 2.51 ml | BrC(C(=O)OC)C | C4H7BrO2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | methyl α-[(9-amino-1,2,3,4-tetrahydroacridin-8-yl)oxy]propionate hydrate | 4.05 g, 86.7% | O.NC=1C2=C(C=CC=C2N=C2CCCCC12)OC(C(=O)OC)C | InChI=1S/C17H20N2O3.H2O/c1-10(17(20)21-2)22-14-9-5-8-13-15(14)16(18)11-6-3-4-7-12(11)19-13;/h5,8-10H,3-4,6-7H2,1-2H3,(H2,18,19);1H2
